US04067723
A mixture of 2-methylbenzyl bromide [prepared as described by Radziszewaki and Wispek, Ber, 15, 1747 (1882); 18.5 g.], methyl 2-furoate (15.3 g.) and anhydrous ferric chloride (0.3 g.) in dry carbon tetrachloride (25 ml.) was heated on a steam bath under reflux for 18 hours and then distilled to give crude methyl 5-(2-methylbenzyl)-2-furoate (7.7 g.) in the form of a pale brown coloured oil, b.p. 120°-145° C./0.1 mm.Hg, suitable for use as a starting material in procedures hereinafter described.

reactant | 2-methylbenzyl bromide | 18.5 g | CC1=C(CBr)C=CC=C1 | C8H9Br
reactant | methyl 2-furoate | 15.3 g | O1C(=CC=C1)C(=O)OC | C6H6O3
solvent | carbon tetrachloride | 25 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | methyl 5-(2-methylbenzyl)-2-furoate | 7.7 g | CC1=C(CC2=CC=C(O2)C(=O)OC)C=CC=C1 | C14H14O3
